US04402955
To a solution of 7.64 g. (110 mmole) of hydroxylamine hydrochloride in 150 ml. of methyl alcohol were added 5.94 g. (110 mmole) of sodium methylate and the mixture was stirred at room temperature for 10 minutes. A solution of 12.11 g. (110 mmoles) of 4-acetylpyridine in 50 ml. of methyl alcohol was added dropwise over 3 minutes and the reaction mixture was stirred at room temperature for 3 hours and at the reflux temperature for 2.5 hours. After the mixture had cooled, the precipitate of sodium chloride was separated by filtration and the filtrate was concentrated by evaporation to one-half of the original volume. The concentrate was diluted with 50 ml. of water and the solution concentrated to a volume of about 100 ml. This concentrate was chilled in an ice bath for 30 minutes and the precipitate of the oxime was separated by filtration in the cold. There were obtained 8.38 g. (61.5% yield) of 4-acetylpyridine oxime.

reactant | hydroxylamine hydrochloride | 110 mmole | Cl.NO
reactant | sodium methylate | 110 mmole | C[O-].[Na+]
reactant | 4-acetylpyridine | 110 mmoles | C(C)(=O)C1=CC=NC=C1 | C7H7NO
solvent | methyl alcohol | CO | CH4O
product | 4-acetylpyridine oxime | 61.5% yield | C(C)(C1=CC=NC=C1)=NO | C7H8N2O
